US04587341
C. 6-Bromo-2-chloro-4-methylquinoline
A 0.46 g, (0.0019 mole) sample of 6-bromo-4-methyl-2-(1H)-quinolinone was dissolved in 3.0 ml POCl3 under N2 with stirring and heated to reflux for 2 hours. The solution solidified into a purple gum; 2.0 ml of extra POCl3 was added to dissolve the solid. The solution was then slowly poured onto a vigorously stirred slurry of 8 ml concentrated NH4OH and approximately 75 g of ice. An immediate pink crystalline solid formed. The slurry was transferred to a separatory funnel and extracted with five 30 ml portions of CH2Cl2. The extracts were washed with two 40 ml portions of water and dried over MgSO4. The solvent was removed under vacuum, leaving a rusty red crystalline solid, 0.48 g (97%). The product was taken up in hot absolute ethanol, Norite A decolourising carbon added, and filtered through Celite to yield a yellow liquid. Slow cooling of the ethanolic solution gave very fine, pink crystals, m.p. 139.1°-139.80° C. TLC showed Rf 0.25 on silica with 1:1 hexane:CH2Cl2 eluent. Anal. Calcd. for C10H7BrClN: C, 46.82; H, 2.75; N, 5.46; Br, 31.15; Cl, 13.82. Found: C, 46.97; H, 2.79; N, 5.42; Br, 31.08; Cl, 13.79.

reactant | 6-bromo-4-methyl-2-(1H)-quinolinone | BrC=1C=C2C(=CC(NC2=CC1)=O)C | C10H8BrNO
reactant | NH4OH | 8 ml | [NH4+].[OH-]
reactant | hexane | CCCCCC | C6H14
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | POCl3 | 3.0 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | ethanol | C(C)O | C2H6O
solvent | POCl3 | 2.0 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 6-Bromo-2-chloro-4-methylquinoline | BrC=1C=C2C(=CC(=NC2=CC1)Cl)C | C10H7BrClN
